* source EXAM_8_3
D_D6         AC_SEC2 DC_SEC2 D1N4004 
D_D8         N24307 DC_SEC2 D1N4004 
R_R18         0 N24307  1g TC=0,0 
Kn_K1         L_Lpri L_Lsec1 
+ L_Lsec2    0.85 K1041T060_3E2A
V_V4         0 AC_IN  
+SIN 0 230 60 0 0 0
R_R19         N24245 DC_SEC1  1k TC=0,0 
L_Lsec1         AC_SEC1 N24307  356  
R_R17         AC_IN N24477  0.01 TC=0,0 
C_C2         N24245 DC_SEC1  680u  TC=0,0 
L_Lsec2         AC_SEC2 N24307  271  
D_D7         N24669 N24307 D1N4004 
R_R20         N24669 DC_SEC2  1k TC=0,0 
C_C3         N24669 DC_SEC2  220u  TC=0,0 
D_D3         N24245 N24307 D1N4004 
D_D4         N24307 DC_SEC1 D1N4004 
L_Lpri         N24477 0  5200  
D_D5         N24669 AC_SEC2 D1N4004 
D_D1         N24245 AC_SEC1 D1N4004 
D_D2         AC_SEC1 DC_SEC1 D1N4004 
